US07705030B2
Preparation of 4-[2-Amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(3-fluoropropyl)-1H-pyrrole-2-carbaldehyde oxime
A solution of 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-(3-fluoropropyl)-1H-pyrrole-2-carbaldehyde in dry tetrahydrofuran was treated with 1.1 equivalent of hydroxylamine hydrochloride, warmed to 45° C. for 2 hours and concentrated in vacuo. The resultant residue was dissolved in chloroform, washed with water, dried over sodium sulfate and concentrated in vacuo. This residue was purified by HPLC (CN bonded stationary phase, gradient 30% to 60% of (20% MeOH/methylene chloride) and hexane to afford the title compound as a white amorphous solid, mp 119-123° C., identified by NMR and mass spectral analyses.

reactant | 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-(3-fluoropropyl)-1H-pyrrole-2-carbaldehyde | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C=1C=C(N(C1)CCCF)C=O)=O)C | C23H21F2N5O2
reactant | hydroxylamine hydrochloride | 1.1 equivalent | Cl.NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[2-Amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(3-fluoropropyl)-1H-pyrrole-2-carbaldehyde oxime | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C=1C=C(N(C1)CCCF)C=NO)=O)C | C23H22F2N6O2
